US07393845B2
2-{2-[4-(2,3-Dihydrobenzo[1,4]dioxin-5-yl)piperazin-1-yl]ethylsulfanyl}-6-methylnicotinonitrile, 1a
4,6-Dimethyl-2-(2-oxo-ethylsulfanyl)nicotinonitrile (2.9 g) was dissolved in 1,2-dichloroethane (150 mL), a solution of 4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)piperazine (2.6 g) in DMF (150 mL) was added, followed by addition of sodium triacetoxyborohydride (14.9 g) and stirring for 2 h. The mixture was poured on water and Na2CO3 added until pH reached 7-8. The mixture was extracted with ethyl acetate, the combined organic phases dried and evaporated to give an oil which was subjected to purification by column chromatography (silica gel; ethyl acetate and heptane) giving an oil which precipitated as the oxalate salt (0.36 g) from acetone. LC/MS (m/z) 397 (MH+), RT=1.91, purity: 97%.

reactant | 4,6-Dimethyl-2-(2-oxo-ethylsulfanyl)nicotinonitrile | 2.9 g | CC1=CC(=NC(=C1C#N)SCC=O)C | C10H10N2OS
reactant | 4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)piperazine | 2.6 g | O1CCOC2=C1C=CC=C2N2CCNCC2 | C12H16N2O2
reactant | sodium triacetoxyborohydride | 14.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-{2-[4-(2,3-Dihydrobenzo[1,4]dioxin-5-yl)piperazin-1-yl]ethylsulfanyl}-6-methylnicotinonitrile | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCSC2=C(C#N)C=CC(=N2)C | C21H24N4O2S
